US07074791B2
Step 5: Preparation of 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine
A solution of 7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol (34.2 g, 111.5 mmol) and phosphorus tribromide (50 mL, 142.5 g, 526.4 mmol) in bromobenzene (500 mL) is refluxed for 1 h. After cooling to room temperature, the mixture is diluted with CHCl3. Saturated NaHCO3 solution is added at 0° C. to neutralize and the mixture is separated immediately. The aqueous layer is extracted with CHCl3 (2×). The combined CHCl3 solution is dried over MgSO4 and filtered. The filtrate is concentrated in vacuo to dryness. The residue is subjected to column chromatography (silica gel, 1/10 EtOAc/heptane) to afford 38.8 g (93%) of light yellow solid as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.48 (d, J=1.5 Hz, 1H), 7.29 (m, 2H), 6.64 (s, 1H), 6.49 (s, 1H), 2.28 (s, 3H), 2.15 (s, 3H); 13C NMR (100 MHz, CDCl3) δ 148.9, 136.8, 135.2, 134.3, 130.1, 129.3, 127.1, 125.6, 125.1, 124.2, 123.2, 114.8, 102.3, 22.0, 12.8; MS (EI) m/z 369 (M+), 371 (M+), 373 (M+); HRMS (FAB) calcd for C15H11BrCl2N2+H 368.9561, found 368.9572.

reactant | 7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol | 111.5 mmol, 34.2 g | ClC1=C(C=CC(=C1)Cl)C1=C(C=C2N1N=C(C=C2O)C)C | C15H12Cl2N2O
reactant | phosphorus tribromide | 526.4 mmol, 50 mL, 142.5 g | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | bromobenzene | 500 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-7-(2,4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)Cl)Cl | C15H11BrCl2N2
